US05223499
To a stirred solution of 2-amino-6-methylpyridine (38 g, 352 mmol) in conc. H2SO4 (70 mL) at 0 ° C. was added HNO3 (16.5 mL, d=1.49) drop-wise over 30 min. The mixture was warmed stirred an additional 1 h at 0° C. then poured into 500 g of ice. This heterogeneous mixture was stirred for 1 h at r.t., filtered, washed with 50 mL H2O and the residue was briefly dried to give 58 g of crude moist 6-methyl-2-nitraminopyridine. This solid was carefully added in 1-2 g portions to stirred H2SO4 (70 mL) at 40° C. After complete addition, the reaction mixture was stirred 1 h at 40° C., cooled and poured into 500 g of ice. The resulting precipitate was filtered, washed with 50 mL of H2O, and air dried to give a yellow solid.

reactant | 2-amino-6-methylpyridine | 352 mmol, 38 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | HNO3 | 16.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 70 mL | OS(=O)(=O)O | H2O4S
product | 6-methyl-2-nitraminopyridine | 58 g | CC1=CC=CC(=N1)N[N+](=O)[O-] | C6H7N3O2
